US03989714
3-(3,4-dimethoxyphenyl)hexahydro-1-hydroxy-7a-phenylindoline
A volume of 75 ml of 3 M phenylmagnesium bromide in ether was added over a period of five minutes to a warm (35° C) stirred solution of 41.25 g (0.015 mole) of 3,3a,4,5,6,7-hexahydro-3-(3,4-dimethoxyphenyl)-2H-indole-1-oxide in 500 ml of tetrahydrofuran. After stirring for 2 hours at room temperature, most of the THF was distilled off at atmospheric pressure. Ice water (1 liter) was added and the paste-like solid was filtered. The damp filter cake was added to 500 ml of 1N HCl. The taffy-like material which remained out of solution was added to 10 MKOH (300 ml). The mixture was extracted into 1.5 l methylenechloride and the extract was dried (K2CO3), charcoaled, filtered and concentrated. The residue was dissolved in 200 ml of petroleum ether. There was obtained 12.5 g (23.6%) of a white solid melting at 166°-168° C. Recrystallization from 2-propanol gave pure material melting at 168°-170° C.

reactant | phenylmagnesium bromide | 3 M, 75 ml | C1(=CC=CC=C1)[Mg]Br
reactant | 3,3a,4,5,6,7-hexahydro-3-(3,4-dimethoxyphenyl)-2H-indole-1-oxide | 0.015 mole, 41.25 g | COC=1C=C(C=CC1OC)C1C[N+](=C2CCCCC12)[O-] | C16H21NO3
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 3-(3,4-dimethoxyphenyl)hexahydro-1-hydroxy-7a-phenylindoline | 12.5 g, 23.6% | COC=1C=C(C=CC1OC)C1CN(C2(CCCCC12)C1=CC=CC=C1)O | C22H27NO3
